US05272172
2-[(1S, 2R, 3S)-2-(hydroxymethyl)-3-methylcyclopent-1-yl]-2-propen-1-ol (1.5 g, 0.0082 mol) obtained in Definite Example 46 was dissolved in 20 ml of dichloromethane and 10 ml of 2, 2-dimethoxypropane was added. Furthermore, 50 mg of p-toluenesulfonic acid was added, and the reaction mixture was stirred at room temperature for 24 hours. After 100 ml of dichloromethane was added, washing was carried out with a mixed aqueous solution of saturated sodium bicarbonate solution (20 ml) and saturated sodium chloride solution (20 ml), and this organic layer was dried by adding magnesium sulfate, and was filtered and then concentrated under a reduced pressure. The residual matter was purified by chromatography using silica gel, and the solvent of the fraction obtained from hexane:ether=8:2 eluent was distilled off. A colorless oily substance was thus obtained, i.e., (1R, 8S, 11S)-4, 4, 11-trimethyl-7-methylene-3, 5-dioxabicyclo[6. 3. 0]undecane (550 mg, yield=29.7%). This (1R, 8S, 11S)-4, 4, 11-trimethyl-7-methylene-3, 5-dioxabicyclo[6. 3. 0]undecane had the following physicochemical properties:

reactant | 2, 2-dimethoxypropane | 10 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (1R, 8S, 11S)-4, 4, 11-trimethyl-7-methylene-3, 5-dioxabicyclo[6. 3. 0]undecane | 550 mg, yield=29.7% | CC1(OC[C@@H]2[C@H](CC[C@@H]2C(CO1)=C)C)C | C13H22O2
